US04318854
1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropan-1-one
A mixture of 20 g (50 mmole) of 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne, 1.0 g (3 mmole) of mercuric sulfate and 55 ml of formic acid in 50 ml of methylene chloride was stirred at room temperature for 30 min. The mixture was poured over ice and extracted with ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was crystallized from a mixture of ethyl acetate and ether to give a colorless solid. Recrystallization from acetone gave colorless prisms, mp 163°-164° C.

reactant | 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne | 50 mmole, 20 g | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H14ClNO3
reactant | formic acid | 55 ml | C(=O)O | CH2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropan-1-one | ClC1=CC(=C(C=C1)C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O)C(C2=CC=CC=C2)=O | C24H16ClNO4
